US08871792B2
(S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-1-Carboxy-2-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]ethyl Ester
(S)-2-Methoxycarbonylamino-3-methylbutyric acid (5.7 mg, 32.3 μmol) and HATU (12.3 mg, 32.3 μmol) were stirred in DMA (1.0 mL, 11 mmol) for 15 minutes. (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (10.0 mg, 21.6 μmol) and DIPEA (11.3 μL, 64.7 μmol) were added, and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated, and the residue was dissolved in AcOH (1.5 mL), filtered, and purification by reverse phase preparative HPLC to yield the title compound (2.7 mg). MS m/z [M+H]+ calc'd for C28H30ClFN4O9, 621.17. found 621.3.

reactant | (S)-2-Methoxycarbonylamino-3-methylbutyric acid | 32.3 μmol, 5.7 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 32.3 μmol, 12.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMA | 11 mmol, 1.0 mL | CC(=O)N(C)C | C4H9NO
reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 21.6 μmol, 10.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | DIPEA | 64.7 μmol, 11.3 μL | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-1-Carboxy-2-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]ethyl Ester | 2.7 mg | C(=O)(O)[C@@H](CN(NC(=O)C1=CC(=NO1)OC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)OC([C@H](C(C)C)NC(=O)OC)=O | C28H30ClFN4O9
